Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([c:2]1[cH:3][n:4][cH:5][c:6](-[c:7]2[cH:8][n:9][c:10]3[nH:11][n:12][c:13](-[c:14]4[c:15]([O:16][CH3:17])[cH:18][cH:19][cH:20][cH:21]4)[c:22]3[cH:23]2)[cH:24]1)=[O:25].[CH2:26]1[CH2:27][CH2:28][NH:29][CH2:30]1>>[C:1]([c:2]1[cH:3][n:4][cH:5][c:6](-[c:7]2[cH:8][n:9][c:10]3[nH:11][n:12][c:13](-[c:14]4[c:15]([O:16][CH3:17])[cH:18][cH:19][cH:20][cH:21]4)[c:22]3[cH:23]2)[cH:24]1)(=[O:25])[N:29]1[CH2:28][CH2:27][CH2:26][CH2:30]1,[OH:101][C:1]([c:2]1[cH:3][n:4][cH:5][c:6](-[c:7]2[cH:8][n:9][c:10]3[nH:11][n:12][c:13](-[c:14]4[c:15]([O:16][CH3:17])[cH:18][cH:19][cH:20][cH:21]4)[c:22]3[cH:23]2)[cH:24]1)=[O:25].[CH2:26]1[CH2:27][CH2:28][NH:29][CH2:30]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][n:4][cH:5][c:6](-[c:7]2[cH:8][n:9][c:10]3[nH:11][n:12][c:13](-[c:14]4[c:15]([O:16][CH3:17])[cH:18][cH:19][cH:20][cH:21]4)[c:22]3[cH:23]2)[cH:24]1)(=[O:25])[N:29]1[CH2:28][CH2:27][CH2:26][CH2:30]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (29, 1), ([1, 25], 25), (303, 29.1), ([29.1, 29], 29), (25, [25, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(C)(C)OC(=O)O[C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[O:8]=[N+:9]([O-:10])[CH:11]1[CH:12]2[CH2:13][NH:14][CH2:15][CH:16]12>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:14]1[CH2:13][CH:12]2[CH:11]([N+:9](=[O:8])[O-:10])[CH:16]2[CH2:15]1,CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[O:8]=[N+:9]([OH:10])[CH:11]1[CH:12]2[CH2:13][NH:14][CH2:15][CH:16]12>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[N:14]1[CH2:13][CH:12]2[CH:11]([N+:9](=[O:8])[OH:10])[CH:16]2[CH2:15]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(14, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([Cl:7])[c:8]2[cH:9][cH:10][nH:11][c:12]12.[CH3:13][C:14]([CH3:15])([CH3:16])[c:17]1[cH:18][cH:19][c:20]([CH2:21][NH:22][CH2:23][CH2:24][c:25]2[cH:31][cH:30][c:28]([Cl:29])[cH:27][cH:26]2)[cH:32][cH:33]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([Cl:7])[c:8]2[cH:9][cH:10][nH:11][c:12]12)[N:22]([CH2:21][c:20]1[cH:19][cH:18][c:17]([C:14]([CH3:13])([CH3:15])[CH3:16])[cH:33][cH:32]1)[CH2:23][CH2:24][c:25]1[cH:26][cH:27][c:28]([Cl:29])[cH:30][cH:31]1,[CH3:13][C:14]([CH3:15])([CH3:16])[c:17]1[cH:18][cH:19][c:20]([CH2:21][NH:22][CH2:23][CH2:24][c:25]2[cH:26][cH:27][c:28]([Cl:29])[cH:30][cH:31]2)[cH:32][cH:33]1.[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][c:6]([Cl:7])[c:8]2[cH:9][cH:10][nH:11][c:12]12.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][c:6]([Cl:7])[c:8]2[cH:9][cH:10][nH:11][c:12]12)[N:22]([CH2:21][c:20]1[cH:19][cH:18][c:17]([C:14]([CH3:13])([CH3:15])[CH3:16])[cH:33][cH:32]1)[CH2:23][CH2:24][c:25]1[cH:26][cH:27][c:28]([Cl:29])[cH:30][cH:31]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (22, 1), ([1, 2], 2), (303, 22.1), ([22.1, 22], 22), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][CH2:3][N:4]([CH3:5])[CH3:6].[CH3:7][c:8]1[cH:9][cH:10][cH:11][c:12]([NH:13][c:14]2[cH:15][c:16]([NH:17][c:18]3[cH:19][cH:20][cH:21][c:22]([OH:23])[cH:24]3)[n:25][cH:26][n:27]2)[cH:28]1>>[CH2:1]([CH2:2][CH2:3][N:4]([CH3:5])[CH3:6])[O:23][c:22]1[cH:21][cH:20][cH:19][c:18]([NH:17][c:16]2[cH:15][c:14]([NH:13][c:12]3[cH:11][cH:10][cH:9][c:8]([CH3:7])[cH:28]3)[n:27][cH:26][n:25]2)[cH:24]1,[CH3:7][c:8]1[cH:9][cH:10][cH:11][c:12]([NH:13][c:14]2[cH:15][c:16]([NH:17][c:18]3[cH:19][cH:20][cH:21][c:22]([OH:23])[cH:24]3)[n:25][cH:26][n:27]2)[cH:28]1.[Cl:101][CH2:1][CH2:2][CH2:3][N:4]([CH3:5])[CH3:6].[H-:301].[Na+]>>[CH2:1]([CH2:2][CH2:3][N:4]([CH3:5])[CH3:6])[O:23][c:22]1[cH:21][cH:20][cH:19][c:18]([NH:17][c:16]2[cH:15][c:14]([NH:13][c:12]3[cH:11][cH:10][cH:9][c:8]([CH3:7])[cH:28]3)[n:27][cH:26][n:25]2)[cH:24]1,SN2_alcohol(thiol),"[(301, 23.1), ([23.1, 23], 23), (23, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
